### PR TITLE
feat: add BitVec multiplication simp lemmas

### PR DESCRIPTION
**Pull request by vlad902**
This PR adds BitVec lemmas required to cancel multiplicative negatives, and plumb support through to bv_normalize to make use of this result in the normalized twos-complement form.

I include some bmod lemmas I found useful to prove this result, the two helper lemmas I add use the same naming/proofs as their emod equivalents.

### CODE REVIEW

File: tests/lean/run/bv_decide_rewriter.lean [hunk 1]
```diff
@@ -88,6 +88,14 @@ example {x : BitVec 16} : x / (BitVec.ofNat 16 8) = x >>> 3 := by bv_normalize
 example {x y : Bool} (h1 : x && y) : x || y := by bv_normalize
 example (a b c: Bool) : (if a then b else c) = (if !a then c else b) := by bv_normalize
 
+-- neg_mul' / mul_neg'
+example (x y : BitVec 16) : (-x) * y = -(x * y) := by bv_normalize
```
Comment (vlad902) [inline tests/lean/run/bv_decide_rewriter.lean:92]: It seemed useful to me to have both the normalized and unnormalized forms, but happy to reduce this to just the normalized if you prefer.

**Comment by vlad902** [comment]
This is rows 181/182 of the spreadsheet.

File: src/Init/Data/Int/DivModLemmas.lean [hunk 2]
```diff
@@ -1194,6 +1194,16 @@ theorem bmod_sub_bmod_congr : Int.bmod (Int.bmod x n - y) n = Int.bmod (x - y) n
...
 
+theorem add_bmod_eq_add_bmod_right (i : Int)
+    (H : bmod x n = bmod y n) : bmod (x + i) n = bmod (y + i) n := by
+  rw [← bmod_add_bmod_congr, ← @bmod_add_bmod_congr y, H]
+
+theorem bmod_add_cancel_right (i : Int) : bmod (x + i) n = bmod (y + i) n ↔ bmod x n = bmod y n :=
+  ⟨fun H => by
+    have := add_bmod_eq_add_bmod_right (-i) H
+    rwa [Int.add_neg_cancel_right, Int.add_neg_cancel_right] at this,
+  fun H => by rw [← bmod_add_bmod_congr, H, bmod_add_bmod_congr]⟩
```
Comment (kim-em) [inline src/Init/Data/Int/DivModLemmas.lean:1205]: I haven't checked, but are there analogues of these for the other `*mod` variants? I would like to try to keep the discrepancy between the versions monotonically decreasing if possible. :-)

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 3]
```diff
@@ -257,6 +257,14 @@ theorem BitVec.add_const_right' (a b c : BitVec w) : (a + b) + c = (b + c) + a :
 attribute [bv_normalize] BitVec.mul_zero
 attribute [bv_normalize] BitVec.zero_mul
 
+@[bv_normalize]
+theorem BitVec.neg_mul' (x y : BitVec w) : (~~~x + 1#w) * y = ~~~(x * y) + 1#w := by
```
Comment (kim-em) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:261]: As a general principle, unless there is a clear local convention, I would like all theorems with primes in their names to have a doc-comment explaining the naming convention / name clash / difficulty in naming.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 4]
```diff
@@ -88,6 +88,14 @@ example {x : BitVec 16} : x / (BitVec.ofNat 16 8) = x >>> 3 := by bv_normalize
...
+example (x y : BitVec 16) : x * (-y) = -(x * y) := by bv_normalize
+example (x y : BitVec 16) : -x * -y = x * y := by bv_normalize
+example (x y : BitVec 16) : (~~~x + 1) * y = ~~~(x * y) + 1 := by bv_normalize
+example (x y : BitVec 16) : x * (~~~y + 1) = ~~~(x * y) + 1 := by bv_normalize
+example (x y : BitVec 16) : (~~~x + 1) * (~~~y + 1) = x * y := by bv_normalize
+
```
Comment (kim-em) [inline tests/lean/run/bv_decide_rewriter.lean:98]: Is there a difference in the behaviour of `bv_decide` after adding these normalizations? If so, can we have a test demonstrating it?

File: src/Init/Data/Int/DivModLemmas.lean (hunk 2 above)
Comment (vlad902) [reply src/Init/Data/Int/DivModLemmas.lean:1205]: Yes, as I mention in the commit message, these two are direct copies of their emod equivalents in both name and proof. bmod_neg_bmod is new as there isn't

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 3 above)
Comment (vlad902) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean:261]: @hargoniX can comment here as to his convention for the bv_normalize code, as I think I'm following his local convention. (The lemma is specifically applied to the normalized form where negation has been expanded to twos complement, and isn't 'user-facing' in that sense.)

File: tests/lean/run/bv_decide_rewriter.lean (hunk 4 above)
Comment (vlad902) [reply tests/lean/run/bv_decide_rewriter.lean:98]: That's a good question, I don't think there is an easily testable difference from `bv_decide`s perspective.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 3 above)
Comment (hargoniX) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean:261]: These lemmas should be named `neg_mul` (note that they exist in their own namespace separate from regular `BitVec` theory so you can reuse the name). The reason that there is `'` lemmas above is that you also need to match on `(1#w + ~~~x) * y = ~~~(x * y) + 1#w`. This is what the symmetries remark in the spreadsheet is alluding to. If you read the Bitwuzla code you will see they have a function `is_bv_neg` https://github.com/bitwuzla/bitwuzla/blob/main/src/rewrite/rewriter.cpp#L293 that checks for all these symmetries.

File: tests/lean/run/bv_decide_rewriter.lean (hunk 4 above)
Comment (hargoniX) [reply tests/lean/run/bv_decide_rewriter.lean:98]: In general the idea here is mostly to copy what Bitwuzla is doing, given that Bitwuzla has done *extensive* experimentation with rewrites on BitVec it is likely that these rules are good for us. The purpose is mostly to reduce the pressure on the SAT solver/bitblaster further below. So for example when we have `(~~~x + 1) * y` and `x * (~~~y + 1)` in our goal somewhere these were previously mostly distinct multiplication circuits that the SAT solver had to reason about but they are now shared.

In the past the approach to verify that these rules actually bring benefit in practice :tm: has been to run it against SMTLIB on the Stanford cluster and observe speedups, though that is a very expensive operation (takes about half a day) so we don't do that for every rule, just every now and then to see that the trend is going upwards.

File: tests/lean/run/bv_decide_rewriter.lean (hunk 1 above)
Comment (hargoniX) [reply tests/lean/run/bv_decide_rewriter.lean:92]: I think this is fine but please also add test cases for the symmetric variants mentioned above.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 3 above)
Comment (vlad902) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean:261]: Ah, this makes sense, thanks.

File: src/Init/Data/Int/DivModLemmas.lean [hunk 5]
```diff
@@ -1348,3 +1358,7 @@ theorem bmod_natAbs_plus_one (x : Int) (w : 1 < x.natAbs) : bmod x (x.natAbs + 1
           all_goals decide
     · exact ofNat_nonneg x
     · exact succ_ofNat_pos (x + 1)
+
+theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
```
Comment (vlad902) [inline src/Init/Data/Int/DivModLemmas.lean:1362]: Also just a style question more than anything, since this simplifies the statement, should this be a `@[simp]` lemma, even though it's probably a rare case? It's not entirely clear to me when to apply @[simp], since some lemmas that are simplifying are not marked in lean4/mathlib and I haven't figured out the exact rule as to when (outside of obvious considerations about normal forms.)

File: src/Init/Data/Int/DivModLemmas.lean (hunk 2 above)
Comment (kim-em) [reply src/Init/Data/Int/DivModLemmas.lean:1205]: Ah, sorry I wasn't clear. The request was if you'd be willing to also provide the `*mod` variants of your new `bmod_neg_bmod` lemma. (It's fine if not, but then it needs to be added to a TODO list.)

File: src/Init/Data/Int/DivModLemmas.lean (hunk 5 above)
Comment (kim-em) [reply src/Init/Data/Int/DivModLemmas.lean:1362]: Yes, let's add `@[simp]` here. 

Ideally all lemmas that look like good candidates for `simp`, but for some reason are not, should have a comment (usually a plain comment, not a doc-comment) explaining this. But we are a long way from that ideal.

File: src/Init/Data/Int/DivModLemmas.lean (hunk 2 above)
Comment (vlad902) [reply src/Init/Data/Int/DivModLemmas.lean:1205]: Ah, understood. It does not hold for `tmod`,
```
#eval (-1).tmod 2 == (-3).tmod 2
#eval (-1 + 2).tmod 2 != (-3 + 2).tmod 2
```

For `fmod` it holds for small values so I expect it holds generally. I took a look at doing this; however, the theory for fmod is not well developed, so proving this requires building a lot of groundwork to prove basic results about addition under fmod that I don't think I'd like to take on right now.

Comment (kim-em) [reply src/Init/Data/Int/DivModLemmas.lean:1205]: No problem, thanks. I'm planning on making this more uniform later in the quarter, so I can take it from here.

**Review by kim-em — APPROVED** [review]

**Comment by hargoniX** [comment]
@vlad902 if you fix the merge conflict we can merge this.
